US08877970B2
A solution of 4-iodobenzylamine hydrochloride (2.965 g, 11.0 mmol), Boc-Glu(OMe)-OH.DCHA (4.426 g, 10.0 mmol), EDCI (2.301 g, 10.0 mmol), HOBt (1.351 g, 10.0 mmol) in DCM (100 mL) containing DIPEA (5.23 mL) was stirred at room temperature under nitrogen for 20 h. The reaction mixture was diluted with DCM, washed with 1N HCl, sat. NaHCO3 solution, and brine. The solvent was evaporated under reduced pressure to give a crude product, which was purified by flash chromatography eluting with hexane/ethyl acetate (3:1) to give (S)-methyl 4-(tert-butoxycarbonylamino)-5-(4-iodobenzylamino)-5-oxopentanoate (3.653 g, 77%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.65 (d, J=8.4 Hz, 2H), 7.00 (d, J=8.4 Hz, 2H), 6.65 (s, 1H), 5.24 (brs, 1H), 4.39 (t, J=5.4 Hz, 2H), 4.15 (m, 1H), 3.70 (s, 3H), 2.57-2.37 (m, 2H), 2.20-2.11 (m, 1H), 1.99-1.90 (m, 1H), 1.44 (s, 9H); MS (ESI), 499 (M+Na)+.

reactant | 4-iodobenzylamine hydrochloride | 11.0 mmol, 2.965 g | Cl.IC1=CC=C(CN)C=C1
reactant | Boc-Glu(OMe)-OH.DCHA | 10.0 mmol, 4.426 g | CC(C)(C)OC(=O)N[C@@H](CCC(=O)OC)C(=O)O | C11H19NO6
reactant | EDCI | 10.0 mmol, 2.301 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 10.0 mmol, 1.351 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 5.23 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 4-(tert-butoxycarbonylamino)-5-(4-iodobenzylamino)-5-oxopentanoate | 3.653 g, 77% | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC)C(=O)NCC1=CC=C(C=C1)I | C18H25IN2O5
